US09388173B2
Step 2: tert-butyl 4,5-dihydro-1H-pyrazolo[3,4-c]pyridine-6(7H)-carboxylate
To a stirred mixture of tert-butyl 4-((dimethylamino)methylene)-3-oxopiperidine-1-carboxylate (1.0 g, 4 mmol) in EtOH (10 mL) was added hydrazine hydrate (376 mg, 10 mmol). The mixture was stirred at 80° C. for 16 hours until the reaction was shown to be complete by LCMS. The mixture was then concentrated and the residue was extracted with EA (3×30 mL) from water (30 mL). The combined organic extracts were washed with brine (20 mL), dried over anhydrous Na2SO4 and concentrated. The residue was directly for the next step (810 mg, 90% yield). LCMS: 224.1 (M+1), 114.1 (M+1-100), 168.1 (M+1-56).

reactant | tert-butyl 4-((dimethylamino)methylene)-3-oxopiperidine-1-carboxylate | 4 mmol, 1.0 g | CN(C)C=C1C(CN(CC1)C(=O)OC(C)(C)C)=O | C13H22N2O3
reactant | hydrazine hydrate | 10 mmol, 376 mg | O.NN
solvent | EtOH | 10 mL | CCO | C2H6O
product | tert-butyl 4,5-dihydro-1H-pyrazolo[3,4-c]pyridine-6(7H)-carboxylate | 90% yield | N1N=CC2=C1CN(CC2)C(=O)OC(C)(C)C | C11H17N3O2
